US09315542B2
(S)-Benzyl 3-methoxy-2-((S)-3-methoxy-2-(((5-methyl-2-oxo-1,3-dioxol-4-yl)methyl)amino)propanamido)propanoate
Referring to FIG. 38, 4-(bromomethyl)-5-methyl-1,3-dioxo-2-one (278 mg. 1.44 mmol) was added to (S)-benzyl 2-((S)-2-amino-3-methoxypropanamido)-3-methoxypropanoate hydrochloride salt (1.0 g, 2.88 mmol) and potassium carbonate (400 mg, 2.88 mmol) in DMF (15 mL) at 0° C. The reaction was stirred at 0° for 2.5 hours and then diluted with water and extracted with EtOAc. The extract was washed with brine, dried (Na2SO4) and evaporated. The residue was purified by Biotage flash column chromatography to give product as a yellow oil. MS for C20H26N2O8 m/z: 423 (M+H)+.

reactant | (S)-benzyl 2-((S)-2-amino-3-methoxypropanamido)-3-methoxypropanoate hydrochloride salt | 2.88 mmol, 1.0 g | Cl.N[C@H](C(=O)N[C@H](C(=O)OCC1=CC=CC=C1)COC)COC
reactant | potassium carbonate | 2.88 mmol, 400 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (S)-Benzyl 3-methoxy-2-((S)-3-methoxy-2-(((5-methyl-2-oxo-1,3-dioxol-4-yl)methyl)amino)propanamido)propanoate | COC[C@@H](C(=O)OCC1=CC=CC=C1)NC([C@H](COC)NCC=1OC(OC1C)=O)=O | C20H26N2O8
